US07700633B2
To a solution of 7-benzyloxy-3-methoxy-6-nitrochromen-2-one (0.20 g, 0.61 mmol) in 20 mL of THF is added a solution of Na2S2O4 (1.0 g) in water (6 mL). The mixture is heated at 80° C. for 18 h. Additional Na2S2O4 is added until the reaction is complete. After cooling to ambient temperature, EtOAc is added and the mixture is washed with water and sat. NaCl, then dried over sodium sulfate. The solvent is removed under reduced pressure to afford 6-amino-7-benzyloxy-3-methoxychromen-2-one as a pale yellow solid: 1H NMR (CDCl3) δ 7.44-7.34 (m, 5H), 6.81 (s, 1H), 6.70 (s, 1H), 6.68 (s, 1H), 5.11 (s, 2H), 3.85 (s, 3H); (M+H)+=298.

reactant | 7-benzyloxy-3-methoxy-6-nitrochromen-2-one | 0.61 mmol, 0.20 g | C(C1=CC=CC=C1)OC1=C(C=C2C=C(C(OC2=C1)=O)OC)[N+](=O)[O-] | C17H13NO6
reactant | Na2S2O4 | 1.0 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 6 mL | O | H2O
product | 6-amino-7-benzyloxy-3-methoxychromen-2-one | NC=1C=C2C=C(C(OC2=CC1OCC1=CC=CC=C1)=O)OC | C17H15NO4
